US06107307
3-(6-fluoroindol-3-yl)-8-methyl-8-azabicyclo[3.2.1]octane
A mixture of 0.233 gm (0.91 mMol) 3-(6-fluoroindol-3-yl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene and 0.235 gm 10% palladium on carbon in 12 mL methanol was placed under an atmosphere of hydrogen at room temperature. After 8 hours the reaction mixture was filtered and then concentrated under reduced pressure. The residue was again hydrogenated with 0.23 gm 10% palladium on carbon in 7 mL ethanol. After several hours the reaction mixture was filtered and the filtrate concentrated under reduced pressure. The residue was subjected to basic alumina chromatography, eluting with dichloromethane containing 30% dichloromethane saturated with ammonia and 0.5-2% methanol. Fractions containing product were combined and concentrated under reduced pressure to provide 0.068 gm (29%) of the title compound as a colorless solid.

reactant | 3-(6-fluoroindol-3-yl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene | 0.91 mMol, 0.233 gm | FC1=CC=C2C(=CNC2=C1)C1=CC2CCC(C1)N2C | C16H17FN2
catalyst | palladium on carbon | 0.235 gm | [Pd] | Pd
solvent | methanol | 12 mL | CO | CH4O
product | 3-(6-fluoroindol-3-yl)-8-methyl-8-azabicyclo[3.2.1]octane | 0.068 gm, 29% | FC1=CC=C2C(=CNC2=C1)C1CC2CCC(C1)N2C | C16H19FN2
